US07199147B2
In tetrahydrofuran (16 ml) was dissolved 8-benzyl-8-azabicyclo[3.2.1]octan-3-one (1.0 g, 4.64 mmol), and a 1M-diisobutylaluminum hydride/toluene solution (11.6 ml, 11.6 mmol) was added dropwise thereto at −78° C. over a period of 10 minutes and stirred for another 1 hour. Water was added dropwise thereto to quench the excess reactants, and the resulting mixture was separated by the addition of a 2N-aqueous hydrochloric acid solution and ethyl acetate. The aqueous layer was adjusted to pH 10 or lower with a 2N-aqueous sodium hydroxide solution and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated to obtain 8-benzyl-8-azabicyclo[3.2.1]octan-3-ol (886 mg, 88%).

reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one | 4.64 mmol, 1.0 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
reactant | diisobutylaluminum hydride toluene | 11.6 mmol, 11.6 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | Water | O | H2O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 8-benzyl-8-azabicyclo[3.2.1]octan-3-ol | 886 mg, 88% | C(C1=CC=CC=C1)N1C2CC(CC1CC2)O | C14H19NO
